US08202873B2
(1,3,5-Trimethyl-1H-pyrazol-4-yl)-acetaldehyde
Dissolve (1,3,5-trimethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester (2.8 g, 14.3 mmol) in tetrahydrofuran (200 mL) and cool to −78° C. Add diisobutylaluminum hydride (42.8 mL, 42.8 mmol, 1 M in toluene) dropwise over 30 min. Stir an additional 2 hr. at −78° C. Partition between saturated aqueous potassium sodium tartrate solution (150 mL) and ethyl acetate (500 mL) and stir for 16 hr. at room temperature. Separate organic layer, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 1:1 hexanes:ethyl acetate), to give the title preparation (0.26 g, 12%). 1H NMR (CDCl3) δ 9.54 (t, 1H), 3.71 (s, 3H), 3.38 (d, 2H), 2.15 (s, 3H), 2.14 (s, 3H).

reactant | (1,3,5-trimethyl-1H-pyrazol-4-yl)-acetic acid ethyl ester | 14.3 mmol, 2.8 g | C(C)OC(CC=1C(=NN(C1C)C)C)=O | C10H16N2O2
reactant | diisobutylaluminum hydride | 42.8 mmol, 1 M, 42.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (1,3,5-Trimethyl-1H-pyrazol-4-yl)-acetaldehyde | CN1N=C(C(=C1C)CC=O)C | C8H12N2O
